US07754727B2
A suspension of the title B compound, (3R*,4R*)-4-biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester (318 mg, 0.9 mmol) and sodium hydride (60% dispersion in mineral oil, 72 mg, 1.8 mmol) in 8 mL of dry DMA is shaken for 10 min. at 50° C. After cooling to RT, 2-(bromomethyl)naphthalene (298 mg, 1.35 mmol) is added and the mixture shaken for 16 h at 50° C. After addition of H2O, the aqueous layer is extracted twice with ethyl acetate. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography of the residue (SiO2, hexane/ethyl acetate) affords (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as a yellowish viscous oil: MS (LC/MS) 494.2 [M+H]+; Rf 0.30 (hexane/ethyl acetate 8:2).

reactant | (3R*,4R*)-4-biphenyl-3-yl-3-hydroxy-piperidine-1-carboxylic acid t-butyl ester | 0.9 mmol, 318 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)O | C22H27NO3
reactant | sodium hydride | 1.8 mmol, 72 mg | [H-].[Na+]
reactant | 2-(bromomethyl)naphthalene | 1.35 mmol, 298 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | H2O | O | H2O
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
product | (3R*,4R*)-4-biphenyl-3-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C33H35NO3
